US05026715
A. N-[4-(2-Methylpyrrol-4-yl)thiazol-2-yl]guanidine
A mixture of 12.1 g (25 mmole) of N-[4-(2-methyl-1-phenylsulfonylpyrrol-4-yl)thiazol-2-yl]guanidine hydrobromide, 12.1 g 85% potassium hydroxide and 400 ml methanol was heated at reflux for 18 hours. The mixture was cooled, evaporated to dryness, and the residue triturated with water. The resulting precipitate was collected, washed with water, and dried in vacuo to give 5.3 g (96%) of the product as its free base; m.p. 235°-237° C.

reactant | N-[4-(2-methyl-1-phenylsulfonylpyrrol-4-yl)thiazol-2-yl]guanidine hydrobromide | 25 mmole, 12.1 g | Br.CC=1N(C=C(C1)C=1N=C(SC1)NC(=N)N)S(=O)(=O)C1=CC=CC=C1
reactant | potassium hydroxide | 12.1 g | [OH-].[K+]
solvent | methanol | 400 ml | CO | CH4O
product | N-[4-(2-Methylpyrrol-4-yl)thiazol-2-yl]guanidine | 5.3 g, 96% | CC=1NC=C(C1)C=1N=C(SC1)NC(=N)N | C9H11N5S
